US04550115
21.3 g of 3-methylflavone-8-carboxylic acid were slowly added, over a period of 4 hours at 20° C., to a stirred solution of 5.55 g of 2,3-epoxy-1-propanol and 8.34 g of triethylamine in 165 ml of anhydrous benzene. The mixture was permitted to stand at 20°-25° C. for 20 hours, and then 60 ml of water were added. The entire reaction mass was stirred for 15 minutes and the layers were separated. The organic layer was washed and dried, the solvent was evaporated off and 18.95 g of 2,3-epoxypropyl 3-methylflavone-8-carboxylate, m.p. 103°-105° C., were obtained.

reactant | 3-methylflavone-8-carboxylic acid | 21.3 g | CC1=C(OC2=C(C=CC=C2C1=O)C(=O)O)C1=CC=CC=C1 | C17H12O4
reactant | 2,3-epoxy-1-propanol | 5.55 g | O1C(CO)C1 | C3H6O2
reactant | triethylamine | 8.34 g | C(C)N(CC)CC | C6H15N
reactant | water | 60 ml | O | H2O
solvent | benzene | 165 ml | C1=CC=CC=C1 | C6H6
product | 2,3-epoxypropyl 3-methylflavone-8-carboxylate | 18.95 g | CC1=C(OC2=C(C=CC=C2C1=O)C(=O)OCC1CO1)C1=CC=CC=C1 | C20H16O5
